US07115750B1
N-[2-(N,N-Dimethylamino)methyl-6-tetralinyl]-(4′-methoxybiphenyl-4-yl)carboxamide
DMF solution (0.25 ml) of 2M HOBt, DMF solution (0.30 ml) of 2M WSCD, triethylamine (0.14 ml) and DMAP (0.132 g) were added to DMF solution (3 ml) of 6-amino-2-(N,N-dimethylamino)methyltetralin (0.139 g) and 4-(4-methoxy phenyl) benzoic acid (0.118 g). After the reaction mixture was stirred at room temperature for 12 hours, 10% potassium carbonate solution was added, and extraction was conducted using ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride solution, dried, and then concentrated. The resulting crude crystal was washed with diethyl ether, which was recrystallized using ethyl acetate-hexane, to give the titled compound (0.124 g).

reactant | HOBt | 2M | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 6-amino-2-(N,N-dimethylamino)methyltetralin | 0.139 g | NC=1C=C2CCC(CC2=CC1)CN(C)C | C13H20N2
reactant | 4-(4-methoxy phenyl) benzoic acid | 0.118 g | COC1=CC=C(C=C1)C1=CC=C(C(=O)O)C=C1 | C14H12O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
catalyst | DMAP | 0.132 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 0.14 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 0.30 ml | CN(C)C=O | C3H7NO
solvent | DMF | 0.25 ml | CN(C)C=O | C3H7NO
product | N-[2-(N,N-Dimethylamino)methyl-6-tetralinyl]-(4′-methoxybiphenyl-4-yl)carboxamide | 0.124 g | CN(C)CC1CC2=CC=C(C=C2CC1)NC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)OC | C27H30N2O2
